US07932272B2
Benzofuran-5-yl-(5-bromo-thiophen-2-yl)-methanol
To a solution of 2,5-dibromothiophene (2.05 g, 8.48 mmol) in tetrahydrofuran (25 mL) was added n-butyl lithium (3.48 mL, 8.48 mmol) at −78° C., and the solution was stirred for 40 minutes. Then, benzofuran-5-carbaldehyde described in Preparation Example 175 (1.24 g, 8.48 mmol) was added to this reaction solution at −78° C., and the solution was stirred at room temperature for 75 minutes. Water was added to the reaction solution, which was then extracted with ethyl acetate, and the organic layer was washed with brine. Anhydrous magnesium sulfate was added to the organic layer for drying, which was then filtered, the filtrate was concentrated in vacuo, the residue was purified by NH silica gel column chromatography (heptane/ethyl acetate=3/1), and the title compound (2.11 g, 81%) was obtained as a light brown oil.

reactant | 2,5-dibromothiophene | 8.48 mmol, 2.05 g | BrC=1SC(=CC1)Br | C4H2Br2S
reactant | n-butyl lithium | 8.48 mmol, 3.48 mL | C(CCC)[Li]
reactant | benzofuran-5-carbaldehyde | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | Benzofuran-5-yl-(5-bromo-thiophen-2-yl)-methanol | 2.11 g, 81% | O1C=CC2=C1C=CC(=C2)C(O)C=2SC(=CC2)Br | C13H9BrO2S
